US05824690
Combine 1-benzyl-(4-(pyridin-4-yl)-piperidine-4-carboxylic acid amide, (0.22 g, 0.67 mmol) and ethanol (20 mL). Add 5% palladium-on-carbon (0.14 g) and hydrogenate on a Parr apparatus at 55 psi. After 48 hours, remove the catalyst by filtration and evaporate the filtrate in vacuo to give a residue. Combine the residue and methanol. Add a solution of hydrochloric acid in dioxane (2 mL, 4M, 8 mmol) to give a solid. Collect the solid by filtration to give 4-(pyridin-4-yl)-piperidine-4-carboxylic acid amide hydrochloride.

reactant | 4-(pyridin-4-yl)-piperidine-4-carboxylic acid amide | 0.67 mmol, 0.22 g | N1=CC=C(C=C1)C1(CCNCC1)C(=O)N | C11H15N3O
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 8 mmol, 4M, 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium-on-carbon | 0.14 g | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-(pyridin-4-yl)-piperidine-4-carboxylic acid amide hydrochloride | Cl.N1=CC=C(C=C1)C1(CCNCC1)C(=O)N | InChI=1S/C11H15N3O.ClH/c12-10(15)11(3-7-14-8-4-11)9-1-5-13-6-2-9;/h1-2,5-6,14H,3-4,7-8H2,(H2,12,15);1H
